US06194447B1
N,N-bis(2-aminophenyl)-3-chloro-4-cyanoaniline hydrochloride.
N,N-Bis(2-nitrophenyl)-3-chloro-4-cyanoaniline, palladium on carbon (0.70 g, 5%), ethanol (100 ml) was stirred under hydrogen until 2.5 l was consumed. The reaction mixture was filtered through a celite pad, hydrogen chloride in methanol (4M, 30 ml) was added and the solvent was removed by evaporation. The residue was triturated with ethyl acetate to leave the crystalline product. Yield 3.8 g, 53%. M.p. 184-187° C.

reactant | N,N-Bis(2-nitrophenyl)-3-chloro-4-cyanoaniline | [N+](=O)([O-])C1=C(C=CC=C1)N(C1=CC(=C(C=C1)C#N)Cl)C1=C(C=CC=C1)[N+](=O)[O-] | C19H11ClN4O4
catalyst | palladium on carbon | 0.70 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N,N-bis(2-aminophenyl)-3-chloro-4-cyanoaniline hydrochloride | Cl.NC1=C(C=CC=C1)N(C1=CC(=C(C=C1)C#N)Cl)C1=C(C=CC=C1)N | InChI=1S/C19H15ClN4.ClH/c20-15-11-14(10-9-13(15)12-21)24(18-7-3-1-5-16(18)22)19-8-4-2-6-17(19)23;/h1-11H,22-23H2;1H
